US06060477
7-Propoxy-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]-pyrimidine
In a similar manner to Example 63 reaction of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.54 g) and sodium propoxide solution (from sodium, 0.17 g, and n-propanol, 25 ml) yielded the title compound, 0.19 g, m.p. 157-8° C. (recrystallized from n-propanol).

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.54 g | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | sodium propoxide | 25 ml, 0.17 g | [O-]CCC.[Na+]
product | 7-Propoxy-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]-pyrimidine | C(CC)OC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C18H20N4O3
